** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** circuit=amp_024_smcnr  class=amplifier  pdk=gf180mcu  testbench=ac_open_loop  corner=tt
** Self-contained deck: testbench + bound params + lowered DUT (.subckt amp_024_smcnr).
** PDK corner libs resolve by BARE NAME on the image's ngspice sourcepath — run in a
** PDK-enabled env (the base image / api container), NOT a bare host:
**   docker run --rm -i spicexplorer-spice-base:local \
**     bash -lc 'd=$(mktemp -d) && cat > $d/c.spice && cd $d && ngspice -b c.spice' < raw/amp_024_smcnr/gf180mcu/ac_open_loop.spice
*----------------------------------------------------------*
** params: 9 free + 9 frozen knobs (sizing.yaml) · 9 tied · 0 ratio-derived (abstract/params.yaml) · 3 testbench params
** AUTHORED TEMPLATE — amplifier/ac_open_loop_biaswrap (plan D-4; the AnalogGym bias-wrap).
** Open-loop gain measured in closed-loop bias (analoggym-amplifiers skill §5): a 1 TH inductor
** DC-shorts the output back to the inverting input — setting the high-gain operating point —
** while a 1 TF cap AC-opens that feedback and injects the AC input. This is the only way a
** high-gain 3-stage amp biases stably while still exposing its open-loop AC response.
**
** Assumes the AnalogGym canonical DUT port order (self-biased; NO ibias port):
**   .subckt <id> vss vdd vinn vinp vout
** Bindings: DUT VDD VCM CL FSTART FSTOP PPD PDK_INCLUDE.
.include design.ngspice
.lib sm141064.ngspice noise_corner
.lib sm141064.ngspice nfet_03v3_t
.lib sm141064.ngspice pfet_03v3_t
.lib sm141064.ngspice fets_mm
.lib sm141064.ngspice res_typical
.lib sm141064.ngspice mimcap_typical
.lib sm141064.ngspice cap_mim
.temp 27

.param VDD=1.5
.param VCM=0.5
.param CL=10p

Vdd  vdd 0 dc {VDD}
Vcm  opin 0 dc {VCM}          ; common-mode bias on the non-inverting input
Vac  sigin 0 dc 0 ac 1        ; AC stimulus
Lfb  opout opout_dc 1T        ; 1 TH: DC short (bias), AC open
Cin  opout_dc sigin 1T        ; 1 TF: DC open, AC inject into the inverting node
CLoad opout 0 {CL}

* DUT: ports vss vdd vinn vinp vout — vinn=opout_dc (feedback), vinp=opin (CM), vout=opout
X1 0 vdd opout_dc opin opout amp_024_smcnr

.control
  set filetype=ascii
  ac dec 50 0.1 10MEG
  meas ac dcgain FIND vdb(opout) AT=0.1
  meas ac ugf    WHEN vdb(opout)=0 FALL=1
  let phc = cph(opout)*180/3.14159265
  let ph  = 180 + phc - phc[0]
  meas ac pm     FIND ph WHEN vdb(opout)=0 FALL=1
  write
  quit
.endc
.param x_dut_xm7_w=0.25u
.param x_dut_xm7_l=10u
.param x_dut_xm0_w=7.5u
.param x_dut_xm0_l=8u
.param x_dut_xm1_w=1.5u
.param x_dut_xm1_l=10u
.param x_dut_xm4_w=1.5u
.param x_rz=1e5
.param x_c0=2e-12
.param x_ibias_val=1e-7
.param x_dut_xm7_m=1
.param x_dut_xm6_m=2
.param x_dut_xm5_m=10
.param x_dut_xm0_m=1
.param x_dut_xm2_m=1
.param x_dut_xm1_m=1
.param x_dut_xm3_m=1
.param x_dut_xm4_m=10
* ---- GENERATED parameter ties (abstract/params.yaml groups/ratios) ----
* Each tied symbol is defined exactly once, by its line below; rewrite that
* .param to untie just that symbol (untying = shadowing, plan D-3).
.param x_dut_xm6_w = {x_dut_xm7_w}
.param x_dut_xm5_w = {x_dut_xm7_w}
.param x_dut_xm6_l = {x_dut_xm7_l}
.param x_dut_xm5_l = {x_dut_xm7_l}
.param x_dut_xm2_w = {x_dut_xm0_w}
.param x_dut_xm2_l = {x_dut_xm0_l}
.param x_dut_xm3_l = {x_dut_xm1_l}
.param x_dut_xm4_l = {x_dut_xm1_l}
.param x_dut_xm3_w = {x_dut_xm1_w}
.subckt amp_024_smcnr vss vdd vinn vinp vout
C0 outn nzo x_c0
IBS ibias vss dc {x_ibias_val}
R0 nzo vout x_rz
XM0 outp vinn tailp vdd pfet_03v3 l=x_dut_xm0_l m=x_dut_xm0_m w=x_dut_xm0_w
XM1 outp outp vss vss nfet_03v3 l=x_dut_xm1_l m=x_dut_xm1_m w=x_dut_xm1_w
XM2 outn vinp tailp vdd pfet_03v3 l=x_dut_xm2_l m=x_dut_xm2_m w=x_dut_xm2_w
XM3 outn outp vss vss nfet_03v3 l=x_dut_xm3_l m=x_dut_xm3_m w=x_dut_xm3_w
XM4 vout outn vss vss nfet_03v3 l=x_dut_xm4_l m=x_dut_xm4_m w=x_dut_xm4_w
XM5 vout ibias vdd vdd pfet_03v3 l=x_dut_xm5_l m=x_dut_xm5_m w=x_dut_xm5_w
XM6 tailp ibias vdd vdd pfet_03v3 l=x_dut_xm6_l m=x_dut_xm6_m w=x_dut_xm6_w
XM7 ibias ibias vdd vdd pfet_03v3 l=x_dut_xm7_l m=x_dut_xm7_m w=x_dut_xm7_w
.ends
.end
